US08471005B2
7-(2,4-Dimethoxy-phenyl)-2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazine (605 mg) was suspended in 5M NaOH (20 ml) and heated to 80° C. for 3 hours. Cooled to room temperature and acidified with concentrated HCl. Extracted with dichloromethane. Dried over magnesium sulfate. Concentrated to afford 7-(2,4-dimethoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol as a brown solid (245 mg) that was used without further purification.

reactant | 7-(2,4-Dimethoxy-phenyl)-2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazine | 605 mg | COC1=C(C=CC(=C1)OC)C1=CC=C2C=NC(=NN21)S(=O)C | C15H15N3O3S
reactant | HCl | Cl | ClH
reactant | NaOH | 5M, 20 ml | [OH-].[Na+]
product | 7-(2,4-dimethoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol | 245 mg | COC1=C(C=CC(=C1)OC)C1=CC=C2C=NC(=NN21)O | C14H13N3O3
